US05736550
To a solution of the crude cis-6-[N-ethoxycarbonyl-N-(p-fluorobenzyl)aminomethyl]-2-phthalimidomethyltetrahydropyrane (2.81 g, 6.19 mmol) in methanol (30 ml) was added hydrazine monohydrate (0.48 ml, 15 mmol) and heated under reflux for 2 hours. To the reaction mixture was added purified water (30 ml) to dissolve insolubles and the ethanol was distilled off under reduced pressure. The aqueous layer was extracted with chloroform (50 ml×3). The combined organic layer was dried over potassium carbonate and the solvent was distilled off under reduced pressure to give crude cis-2-aminomethyl-6-[N-ethoxycarbonyl-N-(p-fluorobenzyl)aminomethyl]tetrahydropyrane (2.0 g). This compound was used for the subsequent reaction without purification. Yield of two steps=100%.

reactant | cis-6-[N-ethoxycarbonyl-N-(p-fluorobenzyl)aminomethyl]-2-phthalimidomethyltetrahydropyrane | 6.19 mmol, 2.81 g | C(C)OC(=O)N(CC1=CC=C(C=C1)F)C[C@@H]1CCC[C@@H](O1)CN1C(C=2C(C1=O)=CC=CC2)=O | C25H27FN2O5
reactant | hydrazine monohydrate | 15 mmol, 0.48 ml | O.NN
solvent | methanol | 30 ml | CO | CH4O
product | cis-2-aminomethyl-6-[N-ethoxycarbonyl-N-(p-fluorobenzyl)aminomethyl]tetrahydropyrane | 2.0 g | NC[C@@H]1O[C@@H](CCC1)CN(CC1=CC=C(C=C1)F)C(=O)OCC | C17H25FN2O3
